US04234594
2[1-(3-Trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline hydrochloride
1-Acetyl-2[1-(3-Trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline (13.0 g.) was treated with HCl in methanol as described in Example II to give 10.12 g. of product as the HCl salt, mp 205°-206°.

reactant | 1-Acetyl-2[1-(3-Trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline | 13.0 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC(=CC=C1)C(F)(F)F)C | C16H16F3N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2[1-(3-Trifluoromethylphenyl)-3-methyl-5-pyrazolyl] amino-2-imidazoline hydrochloride | Cl.FC(C=1C=C(C=CC1)N1N=C(C=C1NC=1NCCN1)C)(F)F | InChI=1S/C14H14F3N5.ClH/c1-9-7-12(20-13-18-5-6-19-13)22(21-9)11-4-2-3-10(8-11)14(15,16)17;/h2-4,7-8H,5-6H2,1H3,(H2,18,19,20);1H
